US05545755
8-Methoxy-N-propyl-N-[3-(2,3-dihydro-1,1-dioxo-3-oxo-1,2-benzisothiazolyl)propyl]-2-aminotetralin
8-Methoxy-N-propyl-2-aminotetralin (Arvidsson L.-E. et al., J. Med. Chem., 27, 45 (1984) (2 g, 10 mmol), N-(3-iodopropyl)-2,3-dihydro-1,1-dioxo-3-benzisothiazolone (7.5 g), sodium carbonate (2.5 g), and acetonitrile (25 ml) were heated to reflux for 24 hours. After cooling, the solvent was removed in vacuo and the residue placed on a flash silica gel column (3 cm×35 cm) and eluted with ethyl acetate/hexane (5:95, 10:90, 15:85, 20:80, successively). Solvent removal in vacuo afforded the title compound as a white powder (m.p. 131° C.).

reactant | 8-Methoxy-N-propyl-2-aminotetralin | COC=1C=CC=C2CCC(CC12)NCCC | C14H21NO
reactant | N-(3-iodopropyl)-2,3-dihydro-1,1-dioxo-3-benzisothiazolone | 7.5 g | ICCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C10H10INO3S
reactant | sodium carbonate | 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 8-Methoxy-N-propyl-N-[3-(2,3-dihydro-1,1-dioxo-3-oxo-1,2-benzisothiazolyl)propyl]-2-aminotetralin | COC=1C=CC=C2CCC(CC12)N(CCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O)CCC | C24H30N2O4S
